US08669234B2
2-{5-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (2 g, 4.55 mmol), 2-Bromo-5-chloro-benzonitrile (985 mg, 4.55 mmol), Pd(PPh3)4 (263 mg, 0.228 mmol) and a 2 M aqueous solution of potassium carbonate (4.6 mL, 9.2 mmol) were suspended in 1,2-methoxyethane (20 mL) and degassed for 10 min. The stirred reaction mixture was heated to 85° C. for 21 hours then poured into a saturated aqueous solution of NaHCO3 (250 mL). The aqueous phase was extracted 3 times with ethyl acetate and the combined organic layers were dried over magnesium sulfate and concentrated. The crude residue was purified by silica column chromatography (65% to 90% EtOAc/hexanes) to afford 2-[5-(4′-Chloro-2′-cyano-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (1.65 g, 81%).

reactant | 2-{5-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.55 mmol, 2 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C24H34BN3O4
reactant | 2-Bromo-5-chloro-benzonitrile | 4.55 mmol, 985 mg | BrC1=C(C#N)C=C(C=C1)Cl | C7H3BrClN
reactant | potassium carbonate | 9.2 mmol, 4.6 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.228 mmol, 263 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | NaHCO3 | 250 mL | C(=O)(O)[O-].[Na+]
product | 2-[5-(4′-Chloro-2′-cyano-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.65 g, 81% | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=C(C=C(C=C1)Cl)C#N | C25H25ClN4O2
